US05374641
N-[3-(4-hydroxyphenyl)-2-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide (54.5 mg) and 15.1 mg of triethylamine were dissolved in 3 ml of methylene chloride, followed by addition of 16.2 mg of ethyl chlorocarbonate dissolved in 1 ml of methylene chloride, and stirred at room temperature for 15 hours. To the reaction mixture was added water, and the organic phase was separated which was then extracted with methylene chloride. The organic phases were combined and washed in water, followed by drying over magnesium sulfate, to distill off the solvent. The obtained residue was subjected to chromatography on a silica gel column, and from a fraction eluted with methanol-methylene chloride (5:95 v/v) was obtained 47.4 mg of N-[3-(4-ethoxycarbonylphenyl)-2-(3-pyridyl)}propyl]-4-chlorobenzene sulfonamide. The spectrometric data supports the structure of [35] as follows.

reactant | N-[3-(4-hydroxyphenyl)-2-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide | 54.5 mg | OC1=CC=C(C=C1)CC(CNS(=O)(=O)C1=CC=C(C=C1)Cl)C=1C=NC=CC1 | C20H19ClN2O3S
reactant | triethylamine | 15.1 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 16.2 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | water | O | H2O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-chlorobenzene sulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
